US07384934B2
(S)-2-(3-Ethoxycarbonylallyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester
Heat a mixture of (S)-2-(2-oxoethyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester (1.38 g, 4.21 mmol) and (carbethoxymethylene)triphenylphosphorane (1.87 g, 5.38 mmol) in THF (17 mL) at reflux for 4 h. Concentrate the mixture under reduced pressure and purify by silica gel chromatography eluting with 20% to 50% EtOAc in hexanes. Combine the purified fractions, concentrate under reduced pressure, azeotrope with CH2Cl2/hexanes (1:2) and place under vacuum to give the title compound: yellow tar (0.961 g), mass spectrum (m/e): 416.09(M+NH4).

reactant | (S)-2-(2-oxoethyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester | 4.21 mmol, 1.38 g | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)CC=O | C16H28N2O5
reactant | (carbethoxymethylene)triphenylphosphorane | 5.38 mmol, 1.87 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | THF | 17 mL | C1CCOC1 | C4H8O
product | (S)-2-(3-Ethoxycarbonylallyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)CC=CC(=O)OCC | C20H34N2O6
